US06060480
2-{6-[(2-Ethyl-5,7-dimethyl-3H-imidazo[4,5-b]pyridin-3yl)methyl]quinolin-2-yl}aniline (8.73 g, 21.4 mmol) prepared by the method disclosed in Japanese Patent Unexamined Publication No. 6-80664, triethylamine (6.0 ml, 42.8 mmol) and chloroform (87 ml) were mixed and stirred. While cooling on an ice-bath, a solution of anhydrous trifluoromethanesulfonic acid (3.6 ml, 21.4 mmol) in chloroform (36 ml) was added dropwise over 50 minutes. After stirring for 10 minutes, 2M acetic acid (123 ml) was added dropwise under ice-cooling. The solution was partitioned and the organic layer was washed twice with ion exchange water (123 ml), once with 2% aqueous hydrogencarbonate solution (123 ml) and once with ion exchange water (123 ml) to give a crude solution of N-{2-{6-[(2-ethyl-5,7-dimethyl-3H-imidazo[4,5-b]pyridin-3-yl)methyl]quinolin-2-yl}phenyl}trifluoromethanesulfonamide in chloroform. To this solution was added ethanol (60 ml), and the mixture was heated to a bath temperature of 90-115° C. to distill away 176 ml thereof. After standing still overnight at 0° C., the precipitated crystals were collected by filtration. The crystals were washed 3 times with ethanol (10 ml) and dried under reduced pressure. Of the obtained crystals (8.48 g), 8.36 g was taken. Thereto were added ethyl acetate (425 ml) and ethanol (175 ml), and the mixture was heated to distill away 325 ml thereof. The reaction mixture was stood still at room temperature and the precipitated crystals were collected by filtration. After washing 3 times with ethanol (10 ml), the crystals were dried under reduced pressure to give 6.36 g of crystals. This recrystallization step was repeated to give 5.52 g of N-{2-{6-[(2-ethyl-5,7-dimethyl-3H-imidazo[4,5-b]pyridin-3-yl)methyl]quinolin-2-yl}phenyl}trifluoromethanesulfonamide as yellow crystals, melting point 252.0° C.

reactant | 2-{6-[(2-Ethyl-5,7-dimethyl-3H-imidazo[4,5-b]pyridin-3yl)methyl]quinolin-2-yl}aniline | 21.4 mmol, 8.73 g | C(C)C1=NC=2C(=NC(=CC2C)C)N1CC=1C=C2C=CC(=NC2=CC1)C1=C(N)C=CC=C1 | C26H25N5
reactant | triethylamine | 42.8 mmol, 6.0 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid | 21.4 mmol, 3.6 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | acetic acid | 2M, 123 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 36 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 87 ml | C(Cl)(Cl)Cl | CHCl3
product | N-{2-{6-[(2-ethyl-5,7-dimethyl-3H-imidazo[4,5-b]pyridin-3-yl)methyl]quinolin-2-yl}phenyl}trifluoromethanesulfonamide | C(C)C1=NC=2C(=NC(=CC2C)C)N1CC=1C=C2C=CC(=NC2=CC1)C1=C(C=CC=C1)NS(=O)(=O)C(F)(F)F | C27H24F3N5O2S
